US06252084B1
To a cooled solution of 2.9 g (0.02 mol) of 2,6-dimethyl-1H-indole in 40 ml of THF was added 12.5 mL (0.02 mol) of a 1.6M solution of n-butyl lithium in hexane keeping the temperature below 10° C. with an ice-ethanol bath. After 0.25 hours, 20.0 ml (0.0277 mol) of a 1M solution of ZnCl2 in ether was added. The cooling bath was removed and the mixture stirred for 2 hours, then concentrated at reduced pressure to a wax which was dissolved in 40 ml of toluene. To this solution was added 1.89 ml (0.02 mol) of methyl 2-bromoacetate, the mixture was stirred 24 hours and poured into 100 ml of 1N HCl and 100 ml of EtOAc. The organic layer was washed twice with water, dried (Na2SO4), and concentrated at reduced pressure. The residue was chromatographed on silica and eluted with 10% EtOAc/toluene to give 3.17 g (73%) of 2,6-dimethyl-1H-indole-3-acetic acid methyl ester as an oil.

reactant | 2,6-dimethyl-1H-indole | 0.02 mol, 2.9 g | CC=1NC2=CC(=CC=C2C1)C | C10H11N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl 2-bromoacetate | 0.02 mol, 1.89 ml | BrCC(=O)OC | C3H5BrO2
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 2,6-dimethyl-1H-indole-3-acetic acid methyl ester | 3.17 g, 73% | COC(CC1=C(NC2=CC(=CC=C12)C)C)=O | C13H15NO2
